US09314468B2
Preparation of 2-(3-(4-(hydroxymethyl)-1H-1,2,3-triazol-1-yl)propyl)-isoindoline-1,3-dione (21).
A solution of 2-(3-azidopropyl)isoindoline-1,3-dione, 20, (0.62 g, 2.69 mmol) in propargyl alcohol (4 mL) was warmed to 90° C. and stirred for 18 h. The reaction mixture was concentrated under reduced pressure. The crude product containing both regioisomers (˜1:1 ratio) was used in the next step without further purification. ESI+ MS: m/z (rel intensity) 301.1 (100, [M+H]+).

reactant | 2-(3-azidopropyl)isoindoline-1,3-dione | N(=[N+]=[N-])CCCN1C(C2=CC=CC=C2C1=O)=O | C11H10N4O2
solvent | propargyl alcohol | 4 mL | C(C#C)O | C3H4O
product | 2-(3-(4-(hydroxymethyl)-1H-1,2,3-triazol-1-yl)propyl)-isoindoline-1,3-dione | OCC=1N=NN(C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C14H14N4O3
